US08017601B2
N-(6-(1H-indol-6-yl)naphthalen-2-yl)thiophene-3-carboxamide
6-bromo-1H-indole (28.8 mg, 0.147 mmol), N-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)naphthalen-2-yl)thiophene-3-carboxamide (109.2 mg, 0.288 mmol), Fibercat palladium catalyst (Johnson-Matthey, 55.5 mg), and K2CO3 (2 M in water, 0.50 ml, 1.0 mmol) were combined in a microwave reaction vessel and 1,4-dioxane (1.5 ml) was added. The reaction tube was sealed and heated in the microwave (CEM microwave) at 60 Watts and 80 C for 20 minutes. The reaction was then cooled to room temperature, diluted with water (5 ml), and extracted with EtOAc (10 ml; 2×5 ml). The organic extracts were combined, dried over sodium sulfate, filtered, concentrated, and purified via HPLC (10%->95% MeCN/water with 0.1% TFA), silica gel (4:1->3:1->2:1->1:1 hexanes/EtOAc) to afford crude product. This crude material was then purified again via HPLC (same conditions as above) to afford title compound (11.9 mg, 22%). MS (ESI pos. ion) m/z: 369 (M+H). Calc'd Exact Mass for C23H16N2OS: 368.

reactant | 6-bromo-1H-indole | 0.147 mmol, 28.8 mg | BrC1=CC=C2C=CNC2=C1 | C8H6BrN
reactant | N-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)naphthalen-2-yl)thiophene-3-carboxamide | 0.288 mmol, 109.2 mg | CC1(OB(OC1(C)C)C=1C=C2C=CC(=CC2=CC1)NC(=O)C1=CSC=C1)C | C21H22BNO3S
reactant | K2CO3 | 1.0 mmol, 2 M, 0.50 ml | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,4-dioxane | 1.5 ml | O1CCOCC1 | C4H8O2
catalyst | palladium | 55.5 mg | [Pd] | Pd
solvent | water | 5 ml | O | H2O
product | N-(6-(1H-indol-6-yl)naphthalen-2-yl)thiophene-3-carboxamide | 11.9 mg, 22% | N1C=CC2=CC=C(C=C12)C=1C=C2C=CC(=CC2=CC1)NC(=O)C1=CSC=C1 | C23H16N2OS
